US07459263B2
Finally, 2,4-di-(tert-amyl)xanthen-9-one (S-13) was prepared. To a suspension of 2,4-di-(tert-amyl)phenoxybenzoic acid (4.8 g, 13.6 mmol) in acetic anhydride (27.7 g, 272 mmol) was added dropwise sulfuric acid (1.33 g, 13.6 mmol), and then the mixture was held at 80° C. for 3 h. The reaction mixture was cooled to ambient and poured into 100 mL of ice water. The aqueous phase was extracted twice with dichloromethane, and the combined organic extracts were washed with water and then with brine. The solution was dried (Na2SO4) and concentrated deposit a brown solid. The product was purified by column chromatography to provide 3.5 g (76% of theory) of a white solid. 1H NMR (CDCl3): δ 0.75 (t, 6H), 1.3 (s, 6H), 1.4 (s, 6H), 1.65 (q, 2H), 1.80 (q, 2H), 3.85 (s, 3H), 6.80 (d, 2H), 7.15 (m, 2H), 7.35 (br s, 1H), 7.45 (t, 1H), 8.2 (d, 1H).

reactant | 2,4-di-(tert-amyl)phenoxybenzoic acid | 13.6 mmol, 4.8 g | C(C)(C)(CC)C1=C(OC2=C(C(=O)O)C=CC=C2)C=CC(=C1)C(C)(C)CC | C23H30O3
reactant | acetic anhydride | 272 mmol, 27.7 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 13.6 mmol, 1.33 g | S(O)(O)(=O)=O | H2O4S
product | 2,4-di-(tert-amyl)xanthen-9-one | C(C)(C)(CC)C1=CC=2C(C3=CC=CC=C3OC2C(=C1)C(C)(C)CC)=O | C23H28O2
